US07645771B2
Preparation of 1-((1R,5S)-8-{2-[1-[1-(dichloroacetyl)-L-prolyl]-4-(3-fluorophenyl)-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole
1-((1R,5S)-8-{2-[1-[1-(dichloroacetyl)-L-prolyl]-4-(3-fluorophenyl)-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole was obtained from treating 1,1-dimethylethyl (2S)-2-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]-1-pyrrolidinecarboxylate (0.645 g, 1.01 mmol) with HCl as outlined in the procedure for Example 890 to form 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)-1-L-prolyl-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole (0.545 g, 99%). 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)-1-L-prolyl-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole (0.050 g, 0.09 mmol), Dichloro-acetyl chloride (0.013 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in Example 890 to give the title compound, 1-((1R,5S)-8-{2-[1-[1-(dichloroacetyl)-L-prolyl]-4-(3-fluorophenyl)-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole (0.029 g, 49%) as an oil. ES-LCMS m/z 654 (M+1).

reactant | 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)-1-L-prolyl-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.09 mmol, 0.050 g | FC=1C=C(C=CC1)C1(CCN(CC1)C([C@H]1NCCC1)=O)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C33H42FN5O
reactant | Dichloro-acetyl chloride | 0.09 mmol, 0.013 g | ClC(C(=O)Cl)Cl | C2HCl3O
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | 1-((1R,5S)-8-{2-[1-[1-(dichloroacetyl)-L-prolyl]-4-(3-fluorophenyl)-4-piperidinyl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | 0.029 g, 49% | ClC(C(=O)N1[C@H](C(=O)N2CCC(CC2)(C2=CC(=CC=C2)F)CCN2[C@H]3CC(C[C@@H]2CC3)N3C(=NC2=C3C=CC=C2)C)CCC1)Cl | C35H42Cl2FN5O2
